US07696234B2
(4-Benzyloxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl -pyrrolidin-1-yl)-methanone
To a suspension of 4-benzyloxybenzoic acid (116 mg, 0.51 mmol) and PS-carbodiimide (500 mg, 0.66 mmol, 1.32 mmol/g) in 5% DMF in CH2Cl2 (5 mL) is added (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (80 mg, 0.51 mmol). The mixture is stirred at room temperature for 3 days. The reaction mixture is filtered, and the resin is washed with CH2Cl2. The filtrate is concentrated and applied to silica-gel column chromatography (in CH2Cl2 followed by 5% 2M NH3 in MeOH/CH2Cl2) to give the product. 62.7 mg (34%): Observed mass: 365 (M+1).

reactant | 4-benzyloxybenzoic acid | 0.51 mmol, 116 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | carbodiimide | 0.66 mmol, 500 mg | N=C=N | CH2N2
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 0.51 mmol, 80 mg | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (4-Benzyloxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl -pyrrolidin-1-yl)-methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C23H28N2O2
